*=======================================================
*tb_op.cir
* operating point checks for VIN=0V , VIN =3.3V and VIN=VM
*=======================================================

.include "cmos_inverter_3p3.sub"

**PARAM/OPTIONS section **
.param temp=25
.param AVDD_VAL=3.3
.param CL_VAL=100f
.param VM_VAL=1.517114
.param VIN_VAL=0

**Instantiation section **
VDD avdd 0 DC {AVDD_VAL}
VIN vin 0 DC {VIN_VAL}

XINV vin vout avdd 0 cmos_inverter_3p3
CL vout 0 {CL_VAL}

**Analysis Section **
.control
set filetype=ascii

echo "============================================================" > op_tables.txt
echo "CMOS Inverter Operating-Point Tables" >> op_tables.txt
echo "Device subcircuits: NMOS=nmos_3p3, PMOS=pmos_3p3" >> op_tables.txt
echo "Inverter pin order: VIN VOUT AVDD AGND" >> op_tables.txt
echo "NMOS: drain=VOUT gate=VIN source=AGND bulk=AGND W/L=8u/1u" >> op_tables.txt
echo "PMOS: drain=VOUT gate=VIN source=AVDD bulk=AVDD W/L=24u/1u" >> op_tables.txt
echo "============================================================" >> op_tables.txt


echo "==================================="
echo "Operating Point Check: VIN = 0V"
echo "==================================="
op
print v(vin) v(vout) i(vdd)
echo "" >> op_tables.txt
echo "CASE: VIN=0V" >> op_tables.txt
echo "VIN_V VOUT_V IDD_A" >> op_tables.txt
print v(vin) v(vout) i(vdd) >> op_tables.txt
show all >> op_tables.txt

echo "==================================="
echo "Operating Point Check: VIN = 3.3V"
echo "==================================="
alterparam VIN_VAL=3.3
reset
op
print v(vin) v(vout) i(vdd)
echo "" >> op_tables.txt
echo "CASE: VIN=3.3V" >> op_tables.txt
echo "VIN_V VOUT_V IDD_A" >> op_tables.txt
print v(vin) v(vout) i(vdd) >> op_tables.txt
show all >> op_tables.txt

echo "==================================="
echo "Operating Point Check: VIN = VM"
echo "==================================="
alterparam VIN_VAL={VM_VAL}
reset
op
print v(vin) v(vout) i(vdd)
echo "" >> op_tables.txt
echo "CASE: VIN=VM=1.517114V" >> op_tables.txt
echo "VIN_V VOUT_V IDD_A" >> op_tables.txt
print v(vin) v(vout) i(vdd) >> op_tables.txt
show all >> op_tables.txt


echo "==================================="
echo "Operating-point checks complete."
echo "Generated:"
echo "  op_tables.txt"
echo "==================================="

.endc
.end



