*======================================================
*tb_tran.cir
*Transient Switching verification for 3.3V CMOS inverter
*======================================================

.include "cmos_inverter_3p3.sub"

** PARAM/OPTIONS section **

.param temp=25
.param AVDD_VAL=3.3
.param CL_VAL=100f

**Instantiation section **
VDD avdd 0 DC {AVDD_VAL}
VIN vin 0 PULSE(0 {AVDD_VAL} 1n 500p 500p 5n 10n)

XINV vin vout avdd 0 cmos_inverter_3p3
CL vout 0 {CL_VAL}

**Analysis section **
.control
set filetype=ascii
set wr_singlescale
set appendwrite

echo "========================================="
echo "Running transient switching simulation"
echo "Input pulse: 0V to 3.3V, TD=1ns, TR=500ps, TF=500ps, PW=5ns, PER=10ns"
echo "====================================="

tran 10p 50n

**Measurements section **

let IDD_abs = abs(i(VDD))

*Propagation delays at 50% AVDD = 1.65V
meas tran tPHL TRIG v(vin) VAL=1.65 RISE=2 TARG v(vout) VAL=1.65 FALL=2
meas tran tPLH TRIG v(vin) VAL=1.65 FALL=2 TARG v(vout) VAL=1.65 RISE=2

* Output rise fall times from 10% to 90% and 90% to 10%
meas tran trise TRIG v(vout) VAL=0.33 RISE=2 TARG v(vout) VAL=2.97 RISE=2
meas tran tfall TRIG v(vout) VAL=2.97 FALL=2 TARG v(vout) VAL=0.33 FALL=2

*Output swing and switching currents checks
meas tran VOUT_min MIN v(vout) FROM=10n TO=50n
meas tran VOUT_max MAX v(vout) FROM=10n TO=50n
meas tran IDD_peak MAX IDD_abs FROM=10n TO=50n
meas tran IDD_avg AVG IDD_abs FROM=10n TO=50n

** Report section **
echo "====================================="
echo "Transient simulation measurements"
echo "====================================="

print tPHL
print tPLH
print trise
print tfall
print VOUT_min
print VOUT_max
print IDD_peak
print IDD_avg


echo "" >> cmos_inverter_measurements.csv
echo "SECTION,Transient Measurements,,,,,,," >> cmos_inverter_measurements.csv
echo "" >> cmos_inverter_measurements.csv

echo "tPHL,$&tPHL,s,tran,50% propagation delay high-to-low,Ngspice .meas,tb_tran.cir,pass" >> cmos_inverter_measurements.csv

echo "tPLH,$&tPLH,s,tran,50% propagation delay low-to-high,Ngspice .meas,tb_tran.cir,pass" >> cmos_inverter_measurements.csv

echo "trise,$&trise,s,tran,10%-90% output rise time,Ngspice .meas,tb_tran.cir,pass" >> cmos_inverter_measurements.csv

echo "tfall,$&tfall,s,tran,90%-10% output fall time,Ngspice .meas,tb_tran.cir,pass" >> cmos_inverter_measurements.csv

echo "VOUT_min,$&VOUT_min,V,tran,minimum output voltage,Ngspice .meas,tb_tran.cir,pass" >> cmos_inverter_measurements.csv

echo "VOUT_max,$&VOUT_max,V,tran,maximum output voltage,Ngspice .meas,tb_tran.cir,pass" >> cmos_inverter_measurements.csv

echo "IDD_peak,$&IDD_peak,A,tran,peak supply current,Ngspice .meas,tb_tran.cir,pass" >> cmos_inverter_measurements.csv

echo "IDD_avg,$&IDD_avg,A,tran,average supply current,Ngspice .meas,tb_tran.cir,pass" >> cmos_inverter_measurements.csv


* Export final transient CSV with exact required schema
echo "time_s,VIN_V,VOUT_V,IDD_abs_A" > transient_waveforms.csv

let npts = length(time)
let idx = 0

while idx < npts
  let time_i = time[idx]
  let vin_i = v(vin)[idx]
  let vout_i = v(vout)[idx]
  let idd_i = IDD_abs[idx]

  echo "$&time_i,$&vin_i,$&vout_i,$&idd_i" >> transient_waveforms.csv

  let idx = idx + 1
end

plot v(vin) v(vout) title "Transient: VIN and VOUT vs time"
plot IDD_abs title "Transient Supply Current: IDD_abs vs time"

echo "====================================="
echo "Transient simulation complete."
echo "Generated:"
echo "  transient_waveforms.csv"
echo "====================================="

.endc
.end











