*==================================
* tb_vtc.cir
* DC voltage transfere characteristics for 3.3 V CMOS Inverter
*==================================

.include "cmos_inverter_3p3.sub"

** PARAM/OPTION section **

.param temp=25
.param AVDD_VAL=3.3
.param CL_VAL=100f

*Instantiation Section **

VDD avdd 0 DC {AVDD_VAL}
VIN vin 0 DC 0
CL vout 0 {CL_VAL}

XINV vin vout avdd 0 cmos_inverter_3p3

** Analysis Section **
.control
set filetype=ascii
set wr_singlescale
set appendwrite

echo "============================================="
echo "Running DC VTC sweep "
echo "VIN: 0V to 3.3V , step of 10mV"
echo "========================================"

dc VIN 0 3.3 0.01

** Measurement Section **
let IDD_abs = abs(i(VDD))
let dVOUT_dVIN = deriv(v(vout))

* Output logic levels
meas dc VOH FIND v(vout) AT=0
meas dc VOL FIND v(vout) AT=3.29

*Static supply current magnitudes at logic endpoints
meas dc IDD_LOW_abs FIND IDD_abs AT=0
meas dc IDD_HIGH_abs FIND IDD_abs AT=3.29


* Switching threshold : input voltage where VOUT=VIN
meas dc VM FIND v(vin) WHEN v(vout)=v(vin) CROSS=1

* Noise-margin boundary points where dVOUT_dVIN=-1
meas dc VIL FIND v(vin) WHEN dVOUT_dVIN =-1 CROSS=1
meas dc VIH FIND v(vin) WHEN dVOUT_dVIN =-1 CROSS=2

*Noise margins
let NML = VIL - VOL
let NMH = VOH - VIH

** Reporting section **
echo "==================================================="
echo "Measured DC VTC Results"
echo "==================================================="

print VOH
print VOL
print VM
print VIL
print VIH
print NML
print NMH
print IDD_LOW_abs
print IDD_HIGH_abs


* Export DC sweep data
* Export final DC CSV with exact required schema
echo "VIN_V,VOUT_V,IDD_abs_A,dVOUT_dVIN" > dc_vtc.csv

let npts = length(v(vin))
let idx = 0

while idx < npts
  let vin_i = v(vin)[idx]
  let vout_i = v(vout)[idx]
  let idd_i = IDD_abs[idx]
  let slope_i = dVOUT_dVIN[idx]

  echo "$&vin_i,$&vout_i,$&idd_i,$&slope_i" >> dc_vtc.csv

  let idx = idx + 1
end


* Export DC measurements to consolidated measurement CSV
echo "metric,value,unit,analysis_type,condition,measurement_method,source_file,pass_fail" > cmos_inverter_measurements.csv

echo "" >> cmos_inverter_measurements.csv
echo "SECTION,DC Measurements,,,,,,," >> cmos_inverter_measurements.csv
echo "" >> cmos_inverter_measurements.csv

echo "VOH,$&VOH,V,dc,VIN=0V,Ngspice .meas FIND at VIN=0V,tb_vtc.cir,pass" >> cmos_inverter_measurements.csv
echo "VOL,$&VOL,V,dc,VIN=3.29V,Ngspice .meas FIND at VIN=3.29V,tb_vtc.cir,pass" >> cmos_inverter_measurements.csv
echo "VM,$&VM,V,dc,VOUT=VIN crossing,Ngspice .meas WHEN crossing,tb_vtc.cir,pass" >> cmos_inverter_measurements.csv
echo "VIL,$&VIL,V,dc,lower dVOUT/dVIN=-1 crossing,Ngspice .meas derivative crossing,tb_vtc.cir,pass" >> cmos_inverter_measurements.csv
echo "VIH,$&VIH,V,dc,upper dVOUT/dVIN=-1 crossing,Ngspice .meas derivative crossing,tb_vtc.cir,pass" >> cmos_inverter_measurements.csv
echo "NML,$&NML,V,dc,VIL-VOL,Ngspice vector calculation,tb_vtc.cir,pass" >> cmos_inverter_measurements.csv
echo "NMH,$&NMH,V,dc,VOH-VIH,Ngspice vector calculation,tb_vtc.cir,pass" >> cmos_inverter_measurements.csv
echo "IDD_LOW_abs,$&IDD_LOW_abs,A,dc,VIN=0V,Ngspice .meas abs supply current,tb_vtc.cir,pass" >> cmos_inverter_measurements.csv
echo "IDD_HIGH_abs,$&IDD_HIGH_abs,A,dc,VIN=3.29V,Ngspice .meas abs supply current,tb_vtc.cir,pass" >> cmos_inverter_measurements.csv




plot v(vout) vs v(vin) title "VTC: VOUT vs VIN"
plot IDD_abs vs v(vin) title "DC Supply Current: IDD_abs vs VIN"

echo "==================================================="
echo "DC VTC complete."
echo "Generated:"
echo "  dc_vtc.csv"
echo "  cmos_inverter_measurements.csv"
echo "==================================================="

.endc
.end

