* Timer.cir
* 1 Hz discrete active-low/collector clock using two BC546 transistors
* Supply node: vcc = 10 V DC
* Output node: clk_out
* Q1 and Q2 form the cross-coupled astable oscillator
* IRFP240.mod is included as a provided model file, but the IRFP240 device is not required for this low-current clock output


.include "BC546.mod"
.include "IRFP240.mod"

.options method=gear reltol=1e-5 abstol=1e-12 vntol=1e-6

* Single allowed 10 V DC source
VCC vcc 0 DC 10

* Collector loads and BC546 astable transistor pair
RC1 vcc c1 10k
RC2 vcc clk_out 10k
Q1 c1 b1 0 BC546
Q2 clk_out b2 0 BC546

* E24 timing network for approximately 1 Hz clock
RB1 vcc b1 720k
RB2 vcc b2 720k
C1 clk_out b1 1u
C2 c1 b2 1u

* Small initial condition only  starts the analog oscillator in simulation
.ic v(b1)=0 v(b2)=0.8 v(c1)=0 v(clk_out)=10

* 10 second transient run with 1 ms maximum timestep for at least 100 samples per 1 s period
.tran 1m 10s 0 1m uic

.control
run
plot v(clk_out) xlimit 0 10

meas tran v_high MAX v(clk_out) FROM=2s TO=10s
meas tran v_low MIn v(clk_out) FROM=2s TO=10s
meas tran t_period TRIG v(clk_out) VAL=5 TD=2s RISE=1 TARG v(clk_out) VAL=5 TD=2s RISE=2
let f_clk = 1/t_period
print v_high v_low t_period f_clk
.endc
.end